US06992087B2
Preparation of N-(3,6-diethylpyrazin-2-yl)-6,7-dihydro-5H-cyclopenta[b]pyridin-5-amine
Following the procedure for the preparation of (1R,2S)-1-[(3,6-diethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol but substituting 6,7-dihydro-5H-cyclopenta[b]pyridin-5-amine and making non-critical variations provided the title compound as a oil: 1H NMR (400 MHz, CDCl3) δ) 8.48, 7.73, 7.66, 7.14, 5.82, 4.54, 3.22-3.07, 2.79, 2.70-2.57, 1.94 1.36-1.27; HRMS (FAB) calcd for C16H20N4+H 269.1766, found 269.1763.

reactant | (1R,2S)-1-[(3,6-diethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol | C(C)C=1C(=NC(=CN1)CC)N[C@H]1[C@H](CC2=CC=CC=C12)O | C17H21N3O
reactant | 6,7-dihydro-5H-cyclopenta[b]pyridin-5-amine | N1=C2C(=CC=C1)C(CC2)N | C8H10N2
product | N-(3,6-diethylpyrazin-2-yl)-6,7-dihydro-5H-cyclopenta[b]pyridin-5-amine | C(C)C=1C(=NC(=CN1)CC)NC1CCC2=NC=CC=C21 | C16H20N4
